US07365095B2
Treatment of 5-fluoro-2′-phenylbiphenyl-2-ol (6.8 g, 25.7 mmol) with potassium carbonate (5.3 g, 38.6 mmol) and allyl bromide (3.3 mL, 38.6 mmol) in DMSO (150 mL) according to the procedure described for Example 69, Step 3 provided 6.4 g (82%) of 2-allyloxy-5-fluoro-2′-phenylbiphenyl as a white solid. MS (EI) m/z 304.1264 ([M]+); mp 48–49° C.

reactant | 5-fluoro-2′-phenylbiphenyl-2-ol | 25.7 mmol, 6.8 g | FC1=CC=C(C(=C1)C1=C(C=CC=C1)C1=CC=CC=C1)O | C18H13FO
reactant | potassium carbonate | 38.6 mmol, 5.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 38.6 mmol, 3.3 mL | C(C=C)Br | C3H5Br
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
product | 2-allyloxy-5-fluoro-2′-phenylbiphenyl | 6.4 g, 82% | C(C=C)OC1=C(C=C(C=C1)F)C1=C(C=CC=C1)C1=CC=CC=C1 | C21H17FO
